US06548515B1
Step A: N-(3,4-Methylenedioxyphenyl)-2-aminoethanol
27 mmol of sodium acetate and 15 mmol of 2-bromoethanol are added to 10 mmol of 3,4-methylenedioxyaniline dissolved in ethanol. After 24 hours of heating at reflux, the reaction mixture is brought to ambient temperature, water is added, and then the aqueous phase is extracted with dichloromethane. The organic phases are combined, the solvent is evaporated off and the crude residue is purified by chromatography on silica, using a 10:90 dichloromethane/ethyl acetate mixture as eluant, to yield the expected product in the form of an oil.

reactant | sodium acetate | 27 mmol | C(C)(=O)[O-].[Na+]
reactant | 2-bromoethanol | 15 mmol | BrCCO | C2H5BrO
reactant | 3,4-methylenedioxyaniline | 10 mmol | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | N-(3,4-Methylenedioxyphenyl)-2-aminoethanol | C1OC=2C=C(C=CC2O1)NCCO | C9H11NO3
